US06906058B2
1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-methylthio-8-ethoxycarbonylmethoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine
To 1,1-dioxo-3-butyl-3-ethyl-5-phenyl-7-methylthio-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine Method 49; 500 mg, 1.2 mmol) was added MeCN (30 ml), tetrabutylammonium bromide (30 mg, 0.08 mmol), anhydrous sodium carbonate (500 mg, 4.7 mmol), ethyl bromoacetate (0.14 ml, 1.26 mmol) and caesium carbonate (20 mg, 0.06 mmol). This reaction mixture was then stirred over night at 80° C. Then the solvent was removed under reduced pressure, water and DCM were added and the aqueous phase was extracted three times with DCM. The combined organic phases were then dried, concentrated and purified by flash chromatography [DCM: EtOAc, 1:0, 9:1] to give the title compound 600 mg (99%). NMR (300 MHz) 0.8-1.0 (m, 6, 1.0-1.8 (m, 1H), 2.2 (s, 3H), 3.2 (q, 2H), 3.75 (brq, 2H), 4.3 (q, 2), 4.75 (s, 1H), 6.7 (s, 1H), 6.95 (t, 1H), 7.05 (d, 2H), 7.25 (t, 2H), 7.3 (s, 1H).

reactant | 1,1-dioxo-3-butyl-3-ethyl-5-phenyl-7-methylthio-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | O=S1(CC(CN(C2=C1C=C(C(=C2)SC)O)C2=CC=CC=C2)(CC)CCCC)=O | C22H29NO3S2
reactant | sodium carbonate | 4.7 mmol, 500 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl bromoacetate | 1.26 mmol, 0.14 ml | BrCC(=O)OCC | C4H7BrO2
catalyst | tetrabutylammonium bromide | 0.08 mmol, 30 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | caesium carbonate | 0.06 mmol, 20 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | MeCN | 30 ml | CC#N | C2H3N
product | 1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-methylthio-8-ethoxycarbonylmethoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 600 mg, 99% | O=S1(CC(CN(C2=C1C=C(C(=C2)SC)OCC(=O)OCC)C2=CC=CC=C2)(CC)CCCC)=O | C26H35NO5S2
